US04560683
(b) 1-Acetoxy-1-ethyl (6R,7R)-3-carbamoyloxymethyl-7-[(Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-2-em-4-carboxylate
(6R,7R)-3-Carbamoyloxymethyl-7-[(Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylic acid (1.1 g) was stirred with potassium carbonate (105 mg) in N,N-dimethylformamide (5 ml) with ice water cooling under nitrogen. After five minutes, 1-acetoxy-1-ethyl bromide (300 mg) was added. After one hour at ice-bath temperature and 2.5 hours at 21°, the mixture was partitioned between ethyl acetate and aqueous hydrochloric acid. The aqueous layer was extracted with more ethyl acetate and the combined organic layers were washed with brine, dried with magnesium sulphate and evaporated to a foam. This was chromatographed on Sorbsil U30 (50 g) in ethyl acetate (10 to 70%) in petroleum ether (bp 40°-60°) to give the title compound (840 mg); νmax (CHBr3) 3583, 3403 (NH and NH2), 1785 (β-lactam), 1730 (ester and carbamate) and 1688 and 1513 cm-1 (amide); τ (CDCl3) includes 3.04 (NH and OCHCH3), 3.22 (thiazole proton), 4.19 and 4.70 (7-H and 6-H), 4.8 to 5.6 (3CH2 and NH2), and 5.90 (--CH2O).

reactant | (6R,7R)-3-Carbamoyloxymethyl-7-[(Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylic acid | 1.1 g | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OCC2CC2)=O)=O | C37H34N6O7S2
reactant | potassium carbonate | 105 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-acetoxy-1-ethyl bromide | 300 mg | C(C)(=O)OC(C)Br | C4H7BrO2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-Acetoxy-1-ethyl (6R,7R)-3-carbamoyloxymethyl-7-[(Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-2-em-4-carboxylate | 840 mg | C(N)(=O)OCC1=CS[C@H]2N(C1C(=O)OC(C)OC(C)=O)C([C@H]2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OCC2CC2)=O)=O | C41H40N6O9S2
